US09376442B2
4-[2-Ethoxy-5-(trifluoromethyl)phenyl]-N-[1-(hydroxyacetyl)piperidin-4-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-ethoxy-5-(trifluoromethyl)phenyl]-6-methyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f34) and commercially available 2-chloro-2-oxoethyl acetate the title compound is obtained as colorless solid.

reactant | 4-[2-ethoxy-5-(trifluoromethyl)phenyl]-6-methyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C(C)OC1=C(C=C(C=C1)C(F)(F)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCNCC2
reactant | 2-chloro-2-oxoethyl acetate | C(C)(=O)OCC(=O)Cl | C4H5ClO3
product | 4-[2-Ethoxy-5-(trifluoromethyl)phenyl]-N-[1-(hydroxyacetyl)piperidin-4-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)OC1=C(C=C(C=C1)C(F)(F)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCN(CC2)C(CO)=O | C24H26F3N5O4
